US04618610
A mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.2 g), N-chlorosuccinimide (0.135 g) and dimethylformamide (3 ml) was stirred with ice-cooling for an hour. The reaction mixture was poured into water and extracted with chloroform. The extract was concentrated to dryness under reduced pressure and the residue was crystallized from chloroform to give 6-(4-amino-3-chlorophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.02 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.2 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | N-chlorosuccinimide | 0.135 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-(4-amino-3-chlorophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.02 g | NC1=C(C=C(C=C1)C=1C(NC(NN1)=O)C)Cl | C10H11ClN4O
